US06919036B2
Preparation of Imidazolium Nonaborate
A flask fitted with a reflux condenser, magnetic stirrer, and temperature controller was charged with 225 mL deionized water and 70.0 g (1.0 moles) imidazole (C3H4N2). The resulting solution was heated to about 45° C. and 185.5 (3.0 moles) boric acid was added with stirring. The mixture was then heated to 90° C. and maintained with stirring for 1 h, cooled to 45° C., filtered, and washed with water. The resulting white powder was washed with about 100 mL deionized water and dried at 105° C. It was identified as imidazolium nonaborate by x-ray diffraction and titration analysis. Elemental analyses for the product are shown in Table 5, along with the theoretical analyses for imidazolium nonaborate, [C3H5N2]2O.3B2O3.2H2O.

reactant | imidazole | 1.0 moles, 70.0 g | N1C=NC=C1 | C3H4N2
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | Imidazolium Nonaborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1.[NH+]1=CNC=C1 | InChI=1S/27C3H4N2.9BO3/c27*1-2-5-3-4-1;9*2-1(3)4/h27*1-3H,(H,4,5);;;;;;;;;/q;;;;;;;;;;;;;;;;;;;;;;;;;;;9*-3/p+27
